US08536180B2
N,N-dimethyl-2-(3-nitrophenyl)ethanamine
In a 250 mL round bottom flask was charged 1-(2-bromoethyl)-3-nitrobenzene (10 g, 43.5 mmol) and acetonitrile (36 mL). The suspension was treated with triethylamine (18.1 mL, 130 mmol) and dimethylamine (2 M in tetrahydrofuran, 65.2 mL, 130 mmol). The resulting solution was stirred at ambient temperature for 48 hours. The reaction was concentrated. The residual solid was partitioned between ethyl acetate (130 mL) and 60 ml saturated aqueous sodium bicarbonate. The aqueous layer was washed with ethyl acetate (75 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The concentrate was purified by flash chromatography on an 80 g silica gel column using an AnaLogix IntelliFlash 280 system eluting with a gradient of from 0% to 7% methanol in CH2Cl2 to provide the title compound. MS (DCI+) m/e 195.1 (M+H)+.

reactant | 1-(2-bromoethyl)-3-nitrobenzene | 43.5 mmol, 10 g | BrCCC1=CC(=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | triethylamine | 130 mmol, 18.1 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 130 mmol, 2 M, 65.2 mL | CNC | C2H7N
solvent | acetonitrile | 36 mL | C(C)#N | C2H3N
product | N,N-dimethyl-2-(3-nitrophenyl)ethanamine | CN(CCC1=CC(=CC=C1)[N+](=O)[O-])C | C10H14N2O2
